US07179823B1
A mixture of methyl 3-[1-(4-benzyloxybenzyl)-3-phenyl-1H-pyrazol-4-yl]propionate (500 mg), 5% palladium-carbon (1.00 g), and tetrahydrofuran (10 ml) was stirred for 18 hours at room temperature under a hydrogen atmosphere. After the palladium-carbon was removed by filtration, the filtrate was concentrated. The residue was subjected to silica gel column chromatography, and methyl 3-[1-(4-hydroxybenzyl)-3-phenyl-1H-pyrazol-4-yl]propionate (325 mg, yield: 80%) was obtained as colorless crystals from the fraction eluted with ethyl acetate-hexane (2:3, volume ratio). This was recrystallized from ethyl acetate-hexane. Melting point: 87–88° C.

reactant | methyl 3-[1-(4-benzyloxybenzyl)-3-phenyl-1H-pyrazol-4-yl]propionate | 500 mg | C(C1=CC=CC=C1)OC1=CC=C(CN2N=C(C(=C2)CCC(=O)OC)C2=CC=CC=C2)C=C1 | C27H26N2O3
catalyst | palladium-carbon | 1.00 g | [C].[Pd]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | methyl 3-[1-(4-hydroxybenzyl)-3-phenyl-1H-pyrazol-4-yl]propionate | 325 mg, yield: 80% | OC1=CC=C(CN2N=C(C(=C2)CCC(=O)OC)C2=CC=CC=C2)C=C1 | C20H20N2O3
